.options savecurrents
	
* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 0.1k

* input coupling capacitor
Cin in2 base 1000uF

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 0.1k

* bypass capacitor
Cb emit 0 1000uF


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 0.1k

* output coupling capacitor
Co emit2 out 1uF

* load
RL out 0 0.008k

.op
.end

* measure specific values for merit calculation
.measure ac max max_at vdb(out) from=10e3 to=10e7
.measure ac left WHEN vdb(out)=3.490405e+01 CROSS=1
.measure ac right WHEN vdb(out)=3.490405e+01-3 CROSS=LAST
*.param bandwith = {right-left}
*print bandwith

.control


* OP Analysis
op

echo  "op_TAB"
print vcc
print in 
print in2
print base
print coll
print emit
print emit2
print out
print @Rin[i]
print @R1[i]
print @R2[i]
print @Rc[i]
print @Re[i]
print @RL[i]
print @Rout[i]
print @Cin[i]
print @Cb[i]
print @Co[i]
*print @Q1[i]
*print @Q2[i]
echo  "op_END"


* time analysis
tran 1e-5 1e-2
plot v(coll) 
hardcopy vo1.ps vdb(coll)


* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vo1f.ps vdb(coll)



plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(out)

*input impedance in kohm
*print all

echo ---- Input impedance ----
plot abs(v(in2)[40]/vin#branch[40]/(-1000))
print v(in2)[40]/vin#branch[40]/(-1000)

*need a different setup to measure output impedance

.endc 

